US08466199B2
Preparation of 2-Allyloxy-benzoic acid (Compound 1)
Under N2, the mixture of ethyl salicylate (16.62 g, 100 mmol), allyl bromide (18.15 g, 12.7 ml, 150 mmol) and potassium carbonate (17.97 g, 130 mmol) in dry 2-butanone (400 ml) was heated to reflux for 48 h. After the reaction mixture cooled down to 25° C., the suspended inorganic salt was removed by filtration. The concentration of the resulting solution by rotary evaporation yielded pale yellowish syrup, which was then mixed with 2N NaOH (80 ml, 160 mmol) and EtOH (150 ml). After this mixture was stirred for 2 h at 50° C., ethanol was removed at reduced pressure. The aqueous solution was acidified by 6N HCl to pH 2 at 5° C. to generate white precipitate, which was then collected by filtration. The recrystallization of this crude product from hexane/ether yielded pure 2-Allyloxy-benzoic acid as colorless crystal (14.87 g, 83.5%). Microanalysis Calc. for C10H10O3 (178.19): C 67.41, H 5.66; found: C 67.35, H 5.39. 1H-NMR (400 MHz, d6-DMSO): 12.51 (s, —CO2H); 7.55 (m, 1 arom. H); 7.38 (m, 1 arom. H); 7.01 (m, 1 arom. H); 6.90 (m, 1 arom. H); 5.93 (m, —CH═CH2); 5.40, 5.15 (2 d-like, —CH═CH2); 4.57 (d-like, CH2—CH═CH2). 13C-NMR (100 MHz, d6-DMSO): 167.35 (—C═O); 156.88; 133.36; 132.81; 130.62; 121.68; 120.16; 116.91; 113.64; 68.52.

reactant | ethyl salicylate | 100 mmol, 16.62 g | C(C=1C(O)=CC=CC1)(=O)OCC | C9H10O3
reactant | allyl bromide | 150 mmol, 12.7 ml, 18.15 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 130 mmol, 17.97 g | C([O-])([O-])=O.[K+].[K+]
reactant | NaOH | 160 mmol, 2N, 80 ml | [OH-].[Na+]
solvent | 2-butanone | 400 ml | CC(CC)=O | C4H8O
solvent | EtOH | 150 ml | CCO | C2H6O
product | 2-Allyloxy-benzoic acid | C(C=C)OC1=C(C(=O)O)C=CC=C1 | C10H10O3
